Multiply Test for W=1 & A=0
* ============================================
* Test: mult_w1a0_test.spice
* Cell: 8T_03v3
* PDK: GF180mcuD
* Author: R. Gupta
* Date: 2026-06-19
* ============================================

* -- includes --
.include /workspace/analog/designs/pvt.spice
.include /workspace/analog/tb/9T_tb.spice

*----------------------------------
* CMOS inverter load
*----------------------------------
* stdcell 
.subckt inv_03v3 in out vdd vss
XP out in vdd vdd pfet_03v3 w=88 l=56
XN out in vss vss nfet_03v3 w=44 l=56
.ends
* isolated supply so i(vddi) is only the receiver
VDDI vddi 0 {VDD_CORNER}
XINV rbl out vddi vss inv_03v3

* -- stimulus --
VVDD vdd  0 {VDD_CORNER}  ; supply
VVSS vss  0 0             ; source
VWL  wl   0 0             ; reads: OFF
VBL  wbl  0 0             ; bitlines parked (or floating)
VBLB wblb 0 0             ; bitlines parked (or floating)
VA   a    0 0             ; set Activation = LO

* -- initial conditions --
.ic v(q)={VDD_CORNER} v(qb)=0

.csparam VDD_CORNER={VDD_CORNER}

* -- sim --
.control
  save all
  save i(vvdd)

  * --- start transient analysis --- 
  tran 0.1n 200n uic

  let i_abs = abs(i(vddi))
  * ========================================================
  * NEW: Crowbar Current and Energy Measurements
  * ========================================================
  
  * 1. Measure the Peak Crowbar Current (Max current during the cycle)
  meas tran max_crowbar_current MAX i_abs from=2n to=200n
  
  * 2. Measure the Average Crowbar Current across the evaluation window
  meas tran avg_crowbar_current AVG i_abs from=2n to=200n
  
  * 3. Calculate Total Energy Consumed per cycle (Time integral of VDD * I_vdd)
  * Since VDD_CORNER is a static scalar parameter, we integrate the current 
  * and then multiply by the voltage level.
  meas tran total_charge INTEG i_abs from=2n to=200n
  let total_energy = total_charge * 3.0
  print total_energy
  echo "Total Cycle Energy: $&total_energy Joules"
  echo ========================================================

  * --- validate data ---
  echo
  meas tran w_init FIND v(q)   AT=15n
  meas tran a_init FIND v(a)   AT=15n
  meas tran o_init FIND v(rbl) AT=15n
  echo
  meas tran w_final FIND v(q)   AT=200n
  meas tran a_final FIND v(a)   AT=200n
  meas tran o_final FIND v(rbl) AT=200n
  echo

  * -- display results ---
  plot q a rbl
  + title "(W, A) == (1, 0)"
  + xlabel "time"
  + ylabel "voltage"

  plot i(vvdd)
  + title "(W, A) == (1, 0)"
  + xlabel "time"
  + ylabel "current"


  * --- save .raw for python parsing ---
  write /workspace/analog/sim/9t/results/mult_w1a0_test.raw all

.endc

.end